US07605265B2
7,8-Dihydro-1H,6H-quinoline-2,5-dione:
To a 500 mL flask, added 3-amino-cyclohex-2-enone (110 g, 0.99 moL) and ethyl propiolate (100 mL, 0.99 moL) and attached a condenser. The mixture was heated to 100 degree Celsius. The reaction started slowly at beginning and accelerated as the reaction progress. After the reaction was refluxed at 120 degree Celsius for 4 h, the mixture was heated up to 150 degree Celsius to remove any liquid. Finally, the mixture was heated up to 190 degree Celsius and remained for 1 h. The reaction was cooled to room temperature and 300 mL methylene chloride was added. The mixture was trituated and filtered to give the desired product (34 g, 21%).

reactant | 3-amino-cyclohex-2-enone | 110 g | NC1=CC(CCC1)=O | C6H9NO
solvent | ethyl propiolate | 100 mL | C(C#C)(=O)OCC | C5H6O2
product | 7,8-Dihydro-1H,6H-quinoline-2,5-dione | 34 g, 21% | N1C(C=CC=2C(CCCC12)=O)=O | C9H9NO2
